US07560569B2
Using 4-aminobicyclo[2.2.2]octane-1-carboxamide (50.0 mg) and (2S)-1-(2-bromoacetyl)pyrrolidine-2-carbonitrile (56.9 mg), the same procedure was followed as in Example 1 to give (2S)-1-[[(4-carbamoylbicyclo[2.2.2]oct-1-yl)amino]acetyl]pyrrolidine-2-carbonitrile (47.5 mg).

reactant | 4-aminobicyclo[2.2.2]octane-1-carboxamide | 50.0 mg | NC12CCC(CC1)(CC2)C(=O)N | C9H16N2O
reactant | (2S)-1-(2-bromoacetyl)pyrrolidine-2-carbonitrile | 56.9 mg | BrCC(=O)N1[C@@H](CCC1)C#N | C7H9BrN2O
product | (2S)-1-[[(4-carbamoylbicyclo[2.2.2]oct-1-yl)amino]acetyl]pyrrolidine-2-carbonitrile | 47.5 mg | C(N)(=O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](CCC2)C#N | C16H24N4O2
